US06284710B1
This gives 7.4 g (96.25 % ee, 84% of theory) of (R)-N-methoxyacetyl-1-methyl-3-phenyl-propylamine, which is then heated under reflux with 50 ml of 18% strength aqueous hydrochloric acid for 4 hours. Work-up gives 5.0 g (96% ee, 98% of theory) of (R)-1-methyl-3-phenyl-propylamine.

reactant | (R)-N-methoxyacetyl-1-methyl-3-phenyl-propylamine | 7.4 g | COCC(=O)N[C@@H](CCC1=CC=CC=C1)C | C13H19NO2
reactant | hydrochloric acid | Cl | ClH
product | (R)-1-methyl-3-phenyl-propylamine | 5.0 g, 98% | C[C@H](CCC1=CC=CC=C1)N | C10H15N
